US20010044563A1
Particular preference is given to the reaction of toluene with ethene or propene to give propylbenzene or isobutylbenzene, the reaction of cumene with ethene to give tert-amylbenzene and the reaction of xylenes with butadiene to give 5-tolylpentenes, and the reaction of p-xylene with 1-butene or 2-butene to give 1-tolyl-2-methylbutane.

reactant | 1-butene | C=CCC | C4H8
reactant | 2-butene | CC=CC | C4H8
reactant | p-xylene | CC=1C=CC(=CC1)C | C8H10
product | 1-tolyl-2-methylbutane | C1(=C(C=CC=C1)CC(CC)C)C | C12H18
